US06969725B2
In analogy to the procedure described in example 1 g], (S)-2-ethoxy-3-{4-[2-(2-fluoro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-trifluoromethyl-phenyl}-propionic acid methyl ester was treated with LiOH to obtain (S)-2-ethoxy-3-{4-[2-(2-fluoro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-trifluoromethyl-phenyl}-propionic acid as colorless liquid.

reactant | (S)-2-ethoxy-3-{4-[2-(2-fluoro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-trifluoromethyl-phenyl}-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)F)C(F)(F)F)OCC)=O | C24H23F4NO5
reactant | LiOH | [Li+].[OH-]
product | (S)-2-ethoxy-3-{4-[2-(2-fluoro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-trifluoromethyl-phenyl}-propionic acid | C(C)O[C@H](C(=O)O)CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)F)C(F)(F)F | C23H21F4NO5
